US06617339B1
3-(4-((3R)-3-t-Butoxycarbonylamino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(3-Fluoro-4-((3R)-3-t-butoxycarbonylamino-1-pyrrolidinyl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one (5 g, 12.7 mmol), 3-hydroxyisoxazole (2.15 g, 25.3 mmol), and 1,1′-(azodicarbonyl)dipiperidine (6.39 g, 25.3 mmol) were suspended by stirring in dry tetrahydrofuran (100 ml) under nitrogen and cooled to 5° in an ice-bath. Tributylphosphine (5.12 g, 25.3 mmol) was added dropwise over 20 minutes, and the solution stirred 18 hours, allowing the temperature to rise to ambient. Reduced azo compound was filtered off, and the solution evaporated to dryness and the residue triturated with ether. The residue was purified by chromatography on a 90 g Biotage silica column, eluting with a gradient from 50 to 75% EtOAc in isohexane. Relevant fractions were combined and evaporated to give the product (3.92 g).

reactant | 3-(3-Fluoro-4-((3R)-3-t-butoxycarbonylamino-1-pyrrolidinyl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one | 12.7 mmol, 5 g | FC=1C=C(C=CC1N1C[C@@H](CC1)NC(=O)OC(C)(C)C)N1C(O[C@H](C1)CO)=O | C19H26FN3O5
reactant | 3-hydroxyisoxazole | 25.3 mmol, 2.15 g | OC1=NOC=C1 | C3H3NO2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 25.3 mmol, 6.39 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | Tributylphosphine | 25.3 mmol, 5.12 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(4-((3R)-3-t-Butoxycarbonylamino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 3.92 g | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C22H27FN4O6
